US07659268B2
A solution of 2-chloro-6-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-nicotinic acid methyl ester (1.0 g, 3.2 mmol) in NH3/MeOH (3M, 50 mL) was stirred at room temperature overnight. The solvent was removed under vacuum and the residue was dissolved in methylene chloride (50 mL), and was washed with saturated aqueous Na2CO3 and water. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel (methylene chloride) to give amino-2-chloronicotinic acid methyl ester (0.53 g, 90%). 1H NMR (400 MHz, DMSO) δ 7.86 (d, J=8.8 Hz, 1H), 7.15 (brs, 2H), 6.38 (d, J=8.4 Hz, 1H), 3.72 (s, 3H).

reactant | 2-chloro-6-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-nicotinic acid methyl ester | 3.2 mmol, 1.0 g | COC(C1=C(N=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O)Cl)=O | C15H9ClN2O4
solvent | NH3 MeOH | 3M, 50 mL | N.CO
product | amino-2-chloronicotinic acid methyl ester | 0.53 g, 90% | COC(C1=C(N=C(C=C1)N)Cl)=O | C7H7ClN2O2
